US07754737B2
A 250-mL three-necked flask was charged with magnesium turning (2.88 g, 0.12 mol) and a small crystal of iodine. The flask was evacuated and refilled with N2. A solution of 1-chloro-4-methoxybutane (15 g, 0.12 mol) in THF (60 mL) was added dropwise to the above mixture. After heating under reflux for 2 h most of magnesium had been consumed and the Grignard solution was cooled to rt. A 250-mL three-necked flask was charged with (3R)-1-(tert-butoxycarbonyl)-3-((2-(2-chlorophenyl))benzoyl)piperidine (4.43 g, 11 mmol) and THF (50 ml), evacuated and refilled with N2. The mixture was cooled in a dry ice-acetone bath and the Grignard reagent was added dropwise. The mixture was allowed to warm slowly to rt and stirred overnight. The mixture was quenched with sat'd aq NH4Cl (100 mL) and extracted with EtOAc. The combined organic layers were dried over Na2SO4 and concentrated to give the crude product which was purified by flash column chromatography to afford pure (3R)-tert-butyl 3-((S)-1-(2-(2-chlorophenyl)phenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate (2.5 g, 47%).

reactant | magnesium | 0.12 mol, 2.88 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-chloro-4-methoxybutane | 0.12 mol, 15 g | ClCCCCOC | C5H11ClO
reactant | (3R)-1-(tert-butoxycarbonyl)-3-((2-(2-chlorophenyl))benzoyl)piperidine | 11 mmol, 4.43 g | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)C(C1=C(C=CC=C1)C1=C(C=CC=C1)Cl)=O | C23H26ClNO3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (3R)-tert-butyl 3-((S)-1-(2-(2-chlorophenyl)phenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate | 2.5 g, 47% | ClC1=C(C=CC=C1)C1=C(C=CC=C1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C28H38ClNO4
